US08217063B2
Diallyl 2-[4-(methoxycarbonyl)benzyl]-2-{2-[4-(methoxycarbonyl)phenyl]ethyl}malonate
At room temperature, 62.66 g (192 mmol) of cesium carbonate and 46.75 g (154 mmol) of methyl 4-(2-bromoethyl)benzoate [CAS Reg. No. 136333-97-6] are added to a solution of 42.61 g (128 mmol) of diallyl 2-(4-methoxycarbonylbenzyl)malonate in 450 ml of DMF. The mixture is then stirred at room temperature overnight. After the reaction has gone to completion, the reaction solution is evaporated to dryness, and the residue is taken up in water and extracted three times with ethyl acetate. The combined organic phases are then washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solvent is removed to dryness under reduced pressure. The crude product obtained is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 13:1). This gives 41.35 g (83.6 mmol, 65% of theory) of a colorless solid.

reactant | cesium carbonate | 192 mmol, 62.66 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 4-(2-bromoethyl)benzoate | 154 mmol, 46.75 g | BrCCC1=CC=C(C(=O)OC)C=C1 | C10H11BrO2
reactant | diallyl 2-(4-methoxycarbonylbenzyl)malonate | 128 mmol, 42.61 g | COC(=O)C1=CC=C(CC(C(=O)OCC=C)C(=O)OCC=C)C=C1 | C18H20O6
solvent | DMF | 450 ml | CN(C)C=O | C3H7NO
product | Diallyl 2-[4-(methoxycarbonyl)benzyl]-2-{2-[4-(methoxycarbonyl)phenyl]ethyl}malonate | COC(=O)C1=CC=C(CC(C(=O)OCC=C)(C(=O)OCC=C)CCC2=CC=C(C=C2)C(=O)OC)C=C1 | C28H30O8
